US04576938
A solution of 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-(tert-butoxycarbonylmethoxyimino)acetamido]-3-[(1-amino-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid (4.80 g, 5.6 mmol) in trifluoroacetic acid (48 ml) was stirred at room temperature for 40 minutes. Trifluoroacetic acid was removed by evaporation and the residue was washed with ether. To the residue was added 80% formic acid (10 ml) and the mixture was stirred at room temperature for 40 minutes. Then the mixture was treated in a manner similar to that described in Example 6, (d) to give pale brown powder of crude 7β-[2-(2-aminothiazol-4-yl)-(Z)-2-(carboxymethoxyimino)acetamido]-3-[(1-amino-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid (1.17 g).

reactant | 7β-[2-(2-tritylaminothiazol-4-yl)-(Z)-2-(tert-butoxycarbonylmethoxyimino)acetamido]-3-[(1-amino-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid | 5.6 mmol, 4.80 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2N)C(=O)O)C1=O)=N/OCC(=O)OC(C)(C)C | C39H38N10O7S3
solvent | trifluoroacetic acid | 48 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7β-[2-(2-aminothiazol-4-yl)-(Z)-2-(carboxymethoxyimino)acetamido]-3-[(1-amino-1H-tetrazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid | 1.17 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2N)C(=O)O)C1=O)=N/OCC(=O)O | C16H16N10O7S3
